### PR TITLE
feat: lemmas about `List.filterM`

### PR DESCRIPTION
**Pull request by eric-wieser**
This PR adds proofs about `List.filterM`.

A few theorems moved to earlier files to make this possible.

### CODE REVIEW

File: src/Init/Data/List/Control.lean [hunk 1]
```diff
@@ -153,6 +167,41 @@ def filterM {m : Type → Type v} [Monad m] {α : Type} (p : α → m Bool) (as
...
   pure as.reverse
 
+@[simp]
+theorem filterM_nil {m : Type → Type v} [Monad m] [LawfulMonad m] {α : Type} (p : α → m Bool) :
+    filterM p [] = pure [] := by
+  simp [filterM, filterAuxM]
+
+theorem filterM_cons {m : Type → Type v} [Monad m] [LawfulMonad m] {a : α} {as : List α} {p : α → m Bool} :
+    filterM p (a :: as) =
+      (do let pa ← p a; let as ← filterM p as; return if pa then a :: as else as) := by
```
Comment (eric-wieser) [inline src/Init/Data/List/Control.lean:177]: Or would this be better with applicatives?
```suggestion
      (fun pa as => if pa then a :: as else as) <$> p a <*> filterM p as := by
```
